*
** Application library **
** Christophe Basso "Switch-Mode Power Supply SPICE Simulation and Practical Designs"
** Last modified February 2007
*
.subckt dcXFMR 1 2 3 4 d
Rp2 d 0 1Meg
VM 6 5
RS 5 3 1u
E1 6 4 Value = { V(1,2)*V(d) }
G2 1 2 Value = { I(VM)*V(d) }
Rp1 1 2 1Meg
.ends
*
**** MULTI-WINDING TRANSFORMER ****
.SUBCKT XFMR2 1 2 3 4 10 11 PARAMS: RATIO1=1 RATIO2=1
RP 1 2 1MEG
E1 5 4 VALUE = { V(1,2)*RATIO1 }
G1 1 2 VALUE = { I(VM1)*RATIO1 }
RS1 6 3 1U
VM1 5 6
E2 20 11 VALUE = { V(2,1)*RATIO2 }
G2 2 1 VALUE = { I(VM2)*RATIO2 }
RS2 21 10 1U
VM2 20 21 
.ENDS XFMR2
**** SINGLE WINDING TRANSFORMER ****
.SUBCKT XFMR1 1 2 3 4 PARAMS: RATIO=1
RP 1 2 1MEG
E 5 4 VALUE = { V(1,2)*RATIO }
G 1 2 VALUE = { I(VM)*RATIO }
RS 6 3 1U
VM 5 6
.ENDS XFMR1
***********
.SUBCKT XFMR-TAP 1 2 3 4 5 PARAMS: RATIO=3.91
E1 7 8 VALUE = { V(1,2)*RATIO }
G1 1 2 VALUE = { I(VM1)*RATIO }
RP 1 2 1MEG
RS 6 3 1U
VM1 7 6
E2 9 5 VALUE = { V(1,2)*RATIO }
G2 1 2 VALUE = { I(VM2)*RATIO }
R5 8 4 1U
VM2 9 8
.ENDS XFMR-TAP
********
.SUBCKT TL431 k a ref
* made by Chris Basso - 2005
G1 a 2 5 ref -250u
Q1 k 2 1 QN3904
R1 1 7 240
R2 7 a 6.6k
Q2 k 7 a QN3904 50
D1 ref k DN4148
C2 7 a 1n
D2 a k D2_mod
C1 k 2 43p
V1 5 a DC=2.49
D3 a 2 D3_mod
.MODEL QN3904 NPN AF=1.0 BF=300 BR=7.5 CJC=3.5PF CJE=4.5PF
+ IKF=.025 IS=1.4E-14 ISE=3E-13 KF=9E-16 NE=1.5 RC=2.4
+ TF=4E-10 TR=21E-9 VAF=100 XTB=1.5
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL D2_mod D BV=36 CJO=4PF IS=7E-09 M=.45 N=1.3 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL D3_mod D N=0.01
.ENDS
********
.model Sbreak VSWITCH Roff=100 Ron=10 Voff=0.0 Von=1.0
.model Sbreak2 VSWITCH Roff=1E6 Ron=10m Voff=0.0 Von=1.0
.model Sbreak3 VSWITCH Roff=100 Ron=50 Voff=0.0 Von=1.0
.model dbreak d N=0.01
.model dbreakz d BV=15.6 RS=10m
.model dbreakPFC d BV=460 RS=10m
.model dbreakCL d BV=3 RS=10m
.MODEL MBR20100 D
+IS=0.000210108 RS=0.0123882 N=2 EG=0.817576
+XTI=0.500001 BV=1000 IBV=0.0001 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=0
+KF=0 AF=1
.MODEL mbr845 d
+IS=6.50276e-05 RS=0.0119924 N=1.33205 EG=0.6
+XTI=3.09376 BV=45 IBV=0.0001 CJO=1.3657e-09
+VJ=0.4 M=0.478505 FC=0.5 TT=1e-09
+KF=0 AF=1
.MODEL mbra210et3 d
+IS=1.58646e-09 RS=0.01 N=0.797738 EG=0.71104
+XTI=4 BV=10 IBV=8e-07 CJO=1.5593e-09
+VJ=0.570707 M=0.478061 FC=0.5 TT=0
+KF=0 AF=1
*
.MODEL mbrf2060ct d
+IS=1e-15 RS=0.0238648 N=0.510622 EG=0.947814
+XTI=0.5 BV=60 IBV=0.00015 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=0
+KF=0 AF=1
*
.MODEL mbrp30045ct d
+IS=0.001 RS=0.000431628 N=1.97975 EG=1.3
+XTI=2.80944 BV=45 IBV=0.0008 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=0
+KF=0 AF=1
*
.MODEL mbrp400100ctl d
+IS=8.7097e-06 RS=0.000508603 N=1.63909 EG=1.07087
+XTI=2.80619 BV=100 IBV=0.006 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=0
+KF=0 AF=1
*
.MODEL 1n5820 d
+IS=0.001 RS=0.0274674 N=2.34208 EG=0.550905
+XTI=3.02706 BV=20 IBV=0.002 CJO=6.36939e-10
+VJ=1.5 M=0.364419 FC=0.5 TT=0
+KF=0 AF=1
*
.MODEL mbrs340t3 d
+IS=0.000182183 RS=0.0312608 N=1.40283 EG=0.576586
+XTI=0.000499955 BV=1000 IBV=0.0001 CJO=4.92728e-10
+VJ=0.573693 M=0.464284 FC=0.5 TT=1e-09
+KF=0 AF=1
*
*****
.SUBCKT FFLOP 6 8 2 1
*             S R Q Q\
E_BQB 10 0 VALUE = { IF ( (V(8)<2.5) & (V(2)>2.5), 0, 5V ) }
E_BQ  20 0 VALUE = { IF ( (V(6)<2.5) & (V(1)>2.5), 0, 5V ) }
RD1   10 1 100
CD1   1 0 10P IC=5
RD2   20 2 100
CD2   2 0 10P IC=0
.ENDS FFLOP
*******
.SUBCKT DFFLOP 1  2 11 12 5  6
*             CLK D R  S  QB Q 
X1 7 4 2 8 NAND30_64
X2 8 3 10 9 NAND30_64
X3 1 8 10 7 NAND31_64
X4 4 9 1 10 NAND30_64
X5 4 7 6 5 NAND31_64
X6 5 10 3 6 NAND30_64
X7 11 4 INV_64
X8 12 3 INV_64
.ENDS DFFLOP
***** INTERNAL F_FLOP DEFINITION ****
.SUBCKT NAND30_64 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5) & (V(3)>2.5), 100m, 10 ) }
R1 5 4 10
C1 4 0 10P IC=100m
.ENDS NAND30_64
*
.SUBCKT NAND31_64 1 2 3 4
E1 5 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5) & (V(3)>2.5), 100m, 10 ) }
R1 5 4 10
C1 4 0 10P IC=10
.ENDS NAND31_64
*
.SUBCKT INV_64 1 2
E1 3 0 VALUE = { IF ( V(1)>2.5, 100m, 10 ) }
R1 3 2 10
C1 2 0 10P IC=10
.ENDS INV_64
*******
.SUBCKT OR2 1 2 3
E_B1 4 0 VALUE = { IF ( (V(1)>2.5) | (V(2)>2.5), 5V, 0 ) }
RD 4 3 10
CD 3 0 10P
.ENDS OR2
*******
.SUBCKT INV 1 2
E1 3 0 VALUE = { IF ( V(1)>2.5V, 100m, 5 ) }
R1 3 2 10
C1 2 0 10P
.ENDS INV
*******
.SUBCKT AND2 1 2 3
E_B1 4 0 VALUE = { IF ( (V(1)>2.5) & (V(2)>2.5), 5V, 0 ) }
RD 4 3 10
CD 3 0 10P
.ENDS AND2
*******
.SUBCKT Opto A K C E params: Cpole=2.2n CTR=2
VILED 2 K
DLED A 2 Dmod
Vsat C 4 DC=100m
D2 E 4 DCLAMP
F2 4 E VILED {CTR}
Cpole 4 E {Cpole}
.MODEL DCLAMP D BV=30 N=0.01
.MODEL Dmod D N=1.8
.ENDS
*******
.SUBCKT SWhyste NodeMinus NodePlus Plus Minus PARAMS: RON=1 ROFF=1MEG VT=5 VH=2
S5 NodePlus NodeMinus 8 0 smoothSW
EBcrtl 8 0 Value = { IF ( V(plus)-V(minus) > V(ref), 1, 0 ) }
EBref ref1 0 Value = { IF ( V(8) > 0.5, {VT-VH}, {VT+VH} ) }
Rdel ref1 ref 100
Cdel ref 0 100p  IC={VT+VH}
Rconv1 8 0 10Meg
Rconv2 plus 0 10Meg
Rconv3 minus 0 10Meg
.model smoothSW VSWITCH (RON={RON} ROFF={ROFF} VON=1 VOFF=0)
.ends SWhyste
******
.MODEL MBR20100CT D
+IS=0.000210108 RS=0.0123882 N=2 EG=0.817576
+XTI=0.500001 BV=1000 IBV=0.0001 CJO=1e-11
+VJ=0.7 M=0.5 FC=0.5 TT=0
+KF=0 AF=1
******
.SUBCKT shuntreg FB gnd out params: pole=7k
*
R4 1 2 2k
C3 gnd 2 {1/(2*3.14*pole*2k)}
R3 3 FB 15
X1 5 3 6 AMPSIMP params: POLE=10Meg VHIGH=10
X2 7 6 3 MOS
V1 5 gnd DC=5.7V
R5 7 gnd 165
E1 1 0 8 7 1
V3 8 gnd DC=670m
V6 9 gnd DC=645m
Rsupply FB gnd 2.3k
E2 out 0 2 gnd 1
Dclamp 7 9 DCLAMP
.MODEL DCLAMP D N=0.01
.ENDS
*******
.SUBCKT AMPSIMP 1 5 7 params: POLE=30 GAIN=30000 VHIGH=4V VLOW=100mV
* + - OUT
G1 0 4 1 5 100u
R1 4 0 {GAIN/100u}
C1 4 0 {1/(6.28*(GAIN/100u)*POLE)}
E1 2 0 4 0 1
Ro 2 7 10
Vlow 3 0 DC={VLOW}
Vhigh 8 0 DC={VHIGH}
Dlow 3 4 DCLP
Dhigh 4 8 DCLP
.MODEL DCLP D N=0.01
.ENDS
*
.SUBCKT MOS 30 40 50
* NODES: DRAIN GATE SOURCE
M1 30 20 50 50 MOD L=1u W=1u
RG 40 20 167
RL 30 50 50E6
D1 30 50 DIODE
.MODEL MOD PMOS VTO=-1.709 RS=3.091 RD=0.979 IS=1E-15 KP=0.146
+CGSO=26P CGDO=4P CBD=12P PB=1
.MODEL DIODE D IS=1.072E-13 RS=0.527 N=1.077
.ENDS MOS
*****
.SUBCKT UVLO_G  1   2  30 params: VON=12 VOFF=10
*              VIN OUT Gnd
X1 1 3 1 30 SWhyste RON=1 ROFF=1E6 VT={((VON-VOFF)/2) + VOFF} VH={(VON-VOFF)/2}
RUV 3 30 100K
B1 4 0 V= V(3,30) > 5V ? 5V : 0
RD 4 2 100
CD 2 0 100P
.ENDS UVLO_G
******
.SUBCKT COMPARHYS NINV INV OUT params: VHIGH=5 VLOW=100m VHYS=50m
E2 HYS NINV Value = { IF ( V(OUT) > {(VHIGH+VLOW)/2}, {VHYS}, 0 ) }
E1 4 0 Value = { IF ( V(HYS,INV) > 0, {VHIGH}, {VLOW} ) }
RO 4 OUT 100
CO OUT 0 100PF
.ENDS
******
.SUBCKT COMPAR NINV INV OUT params: VHIGH=12 VLOW=100m
E1 4 0 Value = { IF ( V(NINV,INV) > 0, {VHIGH}, {VLOW} ) }
RO 4 OUT 10
CO OUT 0 10PF
.ENDS
******
.SUBCKT REFVAR  In Out Gnd params: Vref=5 Zo=2.5 Slope=10k Imax=1.5m Ripple=1mV
Rout 5 6 {Zo}
Vdum 6 Out
Eout 5 Gnd Value = { IF ( I(Vdum) < {Imax}, ({Vref}-V(in)*{Ripple}),  
+ ((({Vref}-V(in)*{Ripple}) - {Slope}*I(Vdum))+({Slope}*{Imax})) ) }
.ENDS
*******
.SUBCKT VARIRES 1 2 CTRL
R1 1 2 1E10
G1 1 2 Value = { V(1,2)/(V(CTRL)+1u) }
.ENDS
*******
.SUBCKT VARICAP 1 2 CTRL
R1 1 3 1u
VC 3 4
EC 4 2 Value = { (1/(v(ctrl)+1p))*v(int) }
GINT 0 INT Value = { I(VC) }
Rdum INT 0 1G
CINT INT 0 1
.ENDS
*******
.SUBCKT VARICOIL 1 2 CTRL
GC 1 2 Value = { V(INT)/(V(CTRL)+1p) }
GINT 0 INT Value = { V(1,2) }
Rdum INT 0 1G
CINT INT 0 1
.ENDS
*******
.subckt DTAND 1 5 6 params: delay=150n
.param Cdel={delay/(0.693*1k)}
*
X1 1 2 5 AND2
X2 3 4 6 AND2
Rdel1 1 2 1k
C1 2 0 {Cdel}
Rdel2 3 4 1k
C2 4 0 {Cdel}
X3 1 3 INV
.ENDS
*********
.SUBCKT GAIN 1 2
*Connections: In Out
E1 2 0 1 0 1
.ENDS
*********
.subckt POWERVCO err out params: Fmin=50k Fmax=400k Vout=350
*
G4 0 1 Value = { 2*100p*{Fmin} }
Rdum 1 0 1G
R1 err 0 100k
G1 0 1 Value = { 2*100p*({Fmax}-{Fmin})*V(CTRL)/5 }
G2 1 0 Value = { IF ( V(osc) > 2.5, (4*100p*{Fmin})+2*2*100p*({Fmax}-{Fmin})*V(CTRL)/5, 0 ) }
C1 1 0 100p IC=0
E3 CTRL 0 Value = { IF ( V(ERR)<100m, 0, IF ( V(ERR)>5, 5, V(ERR) ) ) }
X2 1 4 osc COMPARHYS params: VHIGH=5 VHYS=1
V2 4 0 DC=2
E5 out 0 Value = { IF ( V(osc)>2.5, {Vout}, 0 ) }
V3 3 0 DC={Vout}
D1 0 out MUR3060
D2 out 3 MUR3060
*
.MODEL MUR3060 D BV=600 CJO=517P IBV=10U IS=235U M=.333
+ N=3.68 RS=35M TT=86.4N VJ=.75
*	
.ENDS
**********
.SUBCKT VCO2 FB1 A B params: fmin=100k fmax=1Meg DT=50n SS=100u
*
Rdum1 3 0 1G
Rdum2 5 0 1G
Rdum3 8 0 1G
* 
G4 0 3 Value = { {Fmin*2}*20p }
G3 0 5 Value = { V(FBCC)*1.9*10p*({2*Fmax}/(1-{2*Fmax}*{DT})-{2*Fmin})/5 }
G5 0 4 Value = { 2*10p/{DT} }
C1 8 0 10p IC=0
Xcomp 8 6 cmp COMPAR params: VHIGH=5
E2 6 0 Value = { IF ( V(CMP) < 3, 3, 1 ) }
G1 8 0 Value = { IF ( V(CMP) < 3, 0, I(VDT)+I(VFmin)+I(Vvco) ) }
VDT 4 0
X1 cmp 10 0 0 10 13 DFFLOP
X2 13 14 A AND2
X3 10 14 B AND2
X4 cmp 14 INV
R3 FB1 0 20k
Vvco 5 8
X10 20 19 FB AMPSIMP params: VHIGH=6 VLOW=1m
V4 18 0 DC=100m
R4 18 19 10k
R5 19 FB 10k
X12 FB1 17 GAIN
R8 17 20 10k
R9 20 0 10k
Vfmin 3 8
R6 29 FB 10k
D1 29 28 _D1_mod
V5 28 0 DC=5
CSS 31 0 {10u*SS}
I1 28 31 DC=50u
D2 31 28 DN4148
D3 29 FBCC _D1_mod
D4 30 FBCC _D1_mod
E1 30 0 28 31 1
*
.MODEL DN4148 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL _D1_mod D N=10m
*
.ENDS
**********
.subckt coresat L1 L2 110 100 params: Feddy=25k IVSEC=0 Ae=0.000067 lm=0.037
+lg=0 Bsat=350m ur=6000 N=15 Hc=50
*
.param VSEC={N*Ae*Bsat}
.param u0={1.25u}
.param u={u0*ur/(1+ur*(lg/lm))}
.param Lmag={u*N^2*Ae/lm}
.param Lsat={u0*N^2*Ae/(lm+lg)}
.param IHyst={Hc*lm/N}
.param Cjo={3*VSEC/(6.28*Feddy*clamp*Lmag)}
.param clamp={250}
*
Rdum phi 0 10G
F1 L1 12 VM 1
Gint 0 phi 12 L1 -1
C1 phi 0 {VSEC/Clamp} IC={IVSEC/VSEC*clamp}
Ebuf 5 0 phi 0 1
Rmag 8 0 {Lmag*clamp/VSEC}
VM 5 8
D3 2 9 D2mod
V6 9 0 DC={Clamp}
R2 2 8 {Lsat*clamp/VSEC}
V8 0 10 DC={Clamp}
Vdum 12 L2
D4 10 2 D2mod
I1 6 L1 DC={IHYST}
E1 100 0 Value = { ({N}/{lm})*I(VDUM) }
E2 110 0 Value = { V(phi)*{VSEC}/({N}*{Ae})/{CLAMP} }
I6 6 12 DC={IHYST}
D1 L1 6 Dmod
D2 12 6 Dmod
.MODEL Dmod D N=1
.MODEL D2mod D CJO={Cjo} VJ=25
.ENDS
**********
.SUBCKT OP3842 In out gnd
Vmin out 2 DC=0.6
R15 3 gnd 310Meg
Cp 3 gnd 16p
Dclamp gnd 3 DCLP3
D5 4 5 DCLP1
G1 gnd 3 11 In 100U
Isink 5 gnd DC=120u
Isource 6 out DC=900u
E1 7 gnd 3 gnd 1
Vclamp 6 gnd DC=5.3
Q1 gnd 5 2 QP
R2 7 8 1k
C2 8 gnd 35p
E2 gnd 4 8 gnd -1
D3 out 6 DCLP2
Vref 11 gnd DC=2.5V
*
.MODEL DCLP3 D BV=5 N=10m
.MODEL DCLP2 D BV=100V CJO=4PF IS=7E-09 M=.45 N=2 RS=.8
+ TT=6E-09 VJ=.6V
.MODEL QP PNP
.MODEL DCLP1 D BV=5
.ENDS OP3842
************
**** UVLO CIRCUIT ****
** VH = (VON - VOFF)/2
** VT = VOFF + VH
.SUBCKT UVLO 1 2 30 params: VON=12 VOFF=10
* VIN OUT Gnd
X1 1 3 1 30 SWhyste params: RON=1 ROFF=1E6 VT={((VON-VOFF)/2) + VOFF} VH={(VON-VOFF)/2}
RUV 3 30 100K
E1 4 0 Value = { IF ( V(3,30) > 5V, 5V, 0 ) }
RD 4 2 100
CD 2 0 100P
.ENDS UVLO
*********
.subckt 262MULERR FB MULIN ERR MULOUT
*
E3 MULOUT 0 Value = { IF ( V(4)*V(MULIN)*0.65>1.8, 1.8, V(err)*V(MULIN)*0.65 ) }
G1 0 6 7 FB 100u
Vref 7 0 DC=2.5V
R8 err 0 1G
R100 MULIN 0 1G
D2 10 err _D2_mod 
V4 10 0 DC=1.7
D1 err 11 _D2_mod 
V7 11 0 DC=6.4
V11 6 0
G4 0 err Value = { IF ( I(V11) > 10u, 10u, I(V11) ) }
E5 4 0 Value = { IF ( V(err)-2.05 < 0, 0, V(err)-2.05 ) }
*
.MODEL _D2_mod D BV=100V CJO=4PF IS=7E-09 M=.45 N=0.01
+ RS=.8 TT=6E-09 VJ=.6V
.ENDS
********
.SUBCKT COMPARHYSV NINV INV OUT VAR params: VHIGH=5 VLOW=100m
Rdum VAR 0 10Meg
EB2 HYS NINV Value = { IF ( V(OUT) > {(VHIGH+VLOW)/2}, V(VAR), 0 ) }
EB1 4 0 Value = { IF ( V(HYS,INV) > 0, {VHIGH}, {VLOW} ) }
RO 4 OUT 10
CO OUT 0 10PF
.ENDS
********
.SUBCKT irfbe20 1 2 3
M1 9 7 8 8 MM L=100u W=100u
RS 8 3 0.0001
D1 3 1 MD
RDS 3 1 1e+06
RD 9 1 5.58265
RG 2 7 1.65378
D2 4 5 MD1
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.18252e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
D3 0 5 MD2
** discrete elements **
.MODEL MD3 D IS=1e-10 N=0.4
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.17652e-09 VJ=1.39725 M=0.9 FC=1e-08
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
.MODEL MD D IS=1.19565e-14 RS=0.0525945 N=0.883654 BV=800
+IBV=0.00025 EG=1.2 XTI=3.04329 TT=0
+CJO=3.11456e-10 VJ=5 M=0.9 FC=0.5
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=4.05669 LAMBDA=0.000387746 KP=0.746614
+CGSO=4.5273e-06 CGDO=1e-11
.ENDS irfbe20
*********
.SUBCKT STP20NM60FD 1 2 3
LG 2 4  7.5E-09
LS 12 3 7.5E-09
LD 6 1  4.5E-09
RG 4 5  2.701
RS 9 12 0.292E-01
RD 7 6  0.198
RJ 8 7  0.244E-02
CGS 5 9   0.151E-08
CGD 7 10  0.126E-08
CK  11 7  0.301E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.903E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
** discrete elements **
.MODEL MOS NMOS LEVEL = 3 VTO = 4.492 PHI = 0.819 IS = 0.1E-12 JS = 0 THETA = 0.174 KP = 23.092 
.MODEL DGD D IS = 0.1E-12 CJO = 0.849E-11 VJ = 0.724 M = 0.353 
.MODEL DBD D IS = 0.1E-12 CJO = 0.693E-11 VJ = 0.709 M = 0.309
.MODEL DBS D IS = 0.1E-12 BV = 644 N = 1 TT = 0.345E-06 RS = 0.717E-02
.MODEL DID D IS = 0.01E-12 RS = 0 BV = 654
.ENDS STP20NM60FD
**************
.SUBCKT ntb52n10 1 2 3
M1 9 7 8 8 MM L=100u W=100u
RS 8 3 0.00662207
D1 3 1 MD
RDS 3 1 8.33e+10
RD 9 1 0.00857017
RG 2 7 4.04874
D2 4 5 MD1
D3 0 5 MD2
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 3.80889e-09
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 0 6 MD3
** discrete models **
.MODEL MD D IS=1.2e-09 RS=0.00271192 N=1.27357 BV=100
+IBV=2.5e-07 EG=1.2 XTI=4 TT=0
+CJO=3.23804e-09 VJ=3.86005 M=0.899453 FC=0.5
.MODEL MD1 D IS=1e-32 N=50
+CJO=3.05942e-09 VJ=1.11418 M=0.9 FC=1e-08
.MODEL MM NMOS LEVEL=1 IS=1e-32
+VTO=3.39396 LAMBDA=0.0622182 KP=21.8729
+CGSO=2.00282e-05 CGDO=1e-11
.MODEL MD3 D IS=1e-10 N=0.4
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
.ENDS ntb52n10
************
.SUBCKT stp7nb80 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  2.5
RS 9 12 0.622E-03
RD 7 6  1.067
RJ 8 7  0.454E-02
CGS 5 9   0.131E-08
CGD 7 10  0.155E-08
CK  11 7  0.158E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.319E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
** discrete models **
.MODEL MOS NMOS LEVEL=3 VTO=4.662 PHI=0.318 IS=0 JS=0 
+THETA=0.865E-06 KP=8.597 Vmax=0.302E+07 Kappa=0.123E-02 eta= 0.446E-03
.MODEL DGD D CJO=0.265E-10 VJ=0.305909 M=0.141673
.MODEL DBD D CJO=0.678E-08 VJ=0.824 M=0.816
.MODEL DBS D BV=880 N=1 TT=0.285E-06 RS=0.124E+09
.MODEL DID D RS=0 BV=890
.ENDS stp7nb80
***********
.SUBCKT STP11NK50Z 1 2 3
LG 2 4  7.5n
LS 12 3 7.5n
LD 6 1  4.5n
RG 4 5  2.702
RS 9 12 0.219E-01
RD 7 6  0.304
RJ 8 7  0.232E-01
CGS 5 9   0.148E-08
CGD 7 10  0.225E-08
CK  11 7  0.408E-10
DGD 11 7 DGD
DBS 12 6 DBS
DBD  9 7 DBD
MOS  13 5 9 9 MOS L=1u W=1u
E1  10 5 101 0 1
E2  11 5 102 0 1
E3  8 13 POLY(2) 6 8 6 12 0 0 0 0  0.654E-01
G1  0 100 7 5 1u
D1  100 101  DID
D2  102 100  DID
R1  101 0  1MEG
R2  102 0  1MEG
** discrete models **
.MODEL MOS NMOS LEVEL=3 VTO=4.763 PHI=0.847 IS=0.1E-12 JS=0 THETA=0.304E-01 KP=11.208
.MODEL DGD D IS=0.1E-12 CJO=0.137E-10 VJ=0.755 M=0.349
.MODEL DBD D IS=0.1E-12 CJO=0.155E-10 VJ=0.761 M=0.332
.MODEL DBS D IS=0.1E-12 BV= 569 N= 1 TT= 0.388E-06 RS=0.636E-02
.MODEL DID D IS=0.01E-12 RS=0 BV=679
.ENDS STP11NK50Z
*******


